US08303978B2
To a solution of 2-(6-nitrooxy-hexanoyloxy)-benzoic acid (2,2,5-trimethyl-[1,3]dioxan-5-yl carbamoyl)-methyl ester (5.5 grams) in a mixture of Methanol (55 ml) and water (2.5 ml), was added p-toluenesulfonic acid (0.2 grams) and stirred at room temperature for 2 hours. The reaction mixture poured onto cold water, extracted with Ethyl acetate, washed the organic layer with water, dried over Sodium sulphate and distilled under vacuum to get crude compound which was purified by column chromatography using Hexane:Ethyl acetate as eluant to get 1 grams of 2-(6-Nitrooxy-hexanoyloxy)-benzoic acid (2-hydroxy-1-hydroxy methyl-1-methyl-ethylcarbamoyl)-methyl ester as light yellow syrup. The product was characterized by 1H NMR (DMSO-d6) δ 1.16 (s, 3H, CH3), 1.45 (m, 2H, CH2), 1.70 (m, 4H, CH2X2), 2.64 (t, 2H, CH2), 3.50 (m, 4H, CH2X2), 4.55 (t, 2H, CH2), 4.70 (s, 2H, CH2), 4.80 (t, 2H, OH X2), 7.25 (d, 1H, Ar), 7.40 (m, 2H, Ar & NH), 7.70 (t, 1H, Ar), 8.00 (d, 1H, Ar).

reactant | 2-(6-nitrooxy-hexanoyloxy)-benzoic acid (2,2,5-trimethyl-[1,3]dioxan-5-yl carbamoyl)-methyl ester | 5.5 grams | CC1(OCC(CO1)(C)NC(=O)COC(C1=C(C=CC=C1)OC(CCCCCO[N+](=O)[O-])=O)=O)C | C22H30N2O10
reactant | p-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Methanol | 55 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
product | 2-(6-Nitrooxy-hexanoyloxy)-benzoic acid (2-hydroxy-1-hydroxy methyl-1-methyl-ethylcarbamoyl)-methyl ester | 1 grams | OCC(C)(CO)NC(=O)COC(C1=C(C=CC=C1)OC(CCCCCO[N+](=O)[O-])=O)=O | C19H26N2O10
